US04310347
Methyl 2-{4-[N-methyl-N-(7-chloro-1,2,4-benzotriazin-3-yl)amino]phenoxy}propionate (3)
4-[N-Methyl-N-(7-chloro-1,2,4-benzotriazin-3-yl)-amino]phenol was reacted with methyl 2-bromopropionate following essentially the same procedure as that described in Example 1 part (b) to give the title compound, mp 120° C.

reactant | 4-[N-Methyl-N-(7-chloro-1,2,4-benzotriazin-3-yl)-amino]phenol | CN(C=1N=NC2=C(N1)C=CC(=C2)Cl)C2=CC=C(C=C2)O | C14H11ClN4O
reactant | methyl 2-bromopropionate | BrC(C(=O)OC)C | C4H7BrO2
product | Methyl 2-{4-[N-methyl-N-(7-chloro-1,2,4-benzotriazin-3-yl)amino]phenoxy}propionate | CN(C=1N=NC2=C(N1)C=CC(=C2)Cl)C2=CC=C(OC(C(=O)OC)C)C=C2 | C18H17ClN4O3
